* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 20
R1 n1 a 1
R2 a nc 2
V2 nc nd DC 32.9
R3 nd ne 2
V3 b ne DC 10.9
V4 nf b DC 10.6
R4 nf 0 2
.op
.print dc V(a) V(b)
.end